US07674807B2
3-Methyl-4-nitrobenzyl chloride (0.43 g), 3-heptafluoropropylsulfanyl-5-trifluoromethyl-1H-(1,2,4)-triazole (0.70 g), tetrabutylammonium iodide (0.09 g), 18-crown-6 (0.06 g) and potassium carbonate (0.48 g) were refluxed in acetonitrile (10 ml) for 2 hours. After cooling, the reaction solution was diluted with ethyl acetate and washed with water and saturated aqueous solution of sodium chloride. After drying the organic layer with magnesium sulfate, the solvent was distilled off under the reduced pressure and the obtained residue was purified by silica gel column chromatography to obtain 3-heptafluoropropylsulfanyl-1-(3-methyl-4-nitrobenzyl)-5-trifluoromethyl-1H-(1,2,4)-triazole (0.30 g).

reactant | 3-Methyl-4-nitrobenzyl chloride | 0.43 g | CC=1C=C(CCl)C=CC1[N+](=O)[O-] | C8H8ClNO2
reactant | 3-heptafluoropropylsulfanyl-5-trifluoromethyl-1H-(1,2,4)-triazole | 0.70 g | FC(C(F)(F)SC1=NNC(=N1)C(F)(F)F)(C(F)(F)F)F | C6HF10N3S
reactant | 18-crown-6 | 0.06 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | potassium carbonate | 0.48 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrabutylammonium iodide | 0.09 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-heptafluoropropylsulfanyl-1-(3-methyl-4-nitrobenzyl)-5-trifluoromethyl-1H-(1,2,4)-triazole | 0.30 g | FC(C(F)(F)SC1=NN(C(=N1)C(F)(F)F)CC1=CC(=C(C=C1)[N+](=O)[O-])C)(C(F)(F)F)F | C14H8F10N4O2S
